US06596726B1
A mixture of 4-methylthio-6H-imidazo[4,5-g]quinazoline (0.5 g, 1.6 mmol) [Leonard, N. J.; Morrice, A. G.; Sprecker, M. A.; J. Org. Chem., 1975, 40, 356-363], 3-bromoaniline (0.35 g, 2.0 mmol), and 3-bromoaniline hydrochloride (0.4 g, 1.9 mmol) in isopropanol (200 mL) is heated under reflux for 1 h to give a precipitate of 4-(3-bromoanilino)-6H-imidazo[4,5-g]quinazoline hydrochloride (0.63 g, 72 %). 1H NMR (DMSO) δ9.93 (1H, brs), 9.01 (1H, s), 8.66 (2H, s), 8.39 (1H, s), 8.04 (2H, m), 7.39 (1H, t, J=7.9 Hz), 7.31 (1H, brd, J=8.0 Hz).

reactant | 4-methylthio-6H-imidazo[4,5-g]quinazoline | 1.6 mmol, 0.5 g | CSC1=C2C(C=C3C=NCN=C13)=NC=N2 | C10H8N4S
reactant | 3-bromoaniline | 2.0 mmol, 0.35 g | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 3-bromoaniline hydrochloride | 1.9 mmol, 0.4 g | Cl.BrC=1C=C(N)C=CC1
solvent | isopropanol | 200 mL | C(C)(C)O | C3H8O
product | 4-(3-bromoanilino)-6H-imidazo[4,5-g]quinazoline hydrochloride | 0.63 g, 72 % | Cl.BrC=1C=C(NC2=C3C(C=C4C=NCN=C24)=NC=N3)C=CC1 | InChI=1S/C15H10BrN5.ClH/c16-10-2-1-3-11(5-10)21-15-13-9(6-17-7-19-13)4-12-14(15)20-8-18-12;/h1-6,8,21H,7H2;1H
